US07897631B2
2-Amino-oct-7-ynoic acid methyl ester hydrochloride (2.90 g, 14.1 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-Hex-5-ynyl-1H-imidazol-2-ylamine hydrochloride (2.45 g, 87%) as a pale yellow solid (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (300 MHz, CD3OD) δ 6.43 (s, 1H), δ 2.44 (t, 2H), 2.14 (t, 1H), δ 2.12 (m, 2H), δ 1.64 (m, 2H), δ 1.47 (m, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 147.3, 127.6, 108.5, 83.4, 68.7, 27.7, 27.1, 23.8, 17.5 ppm; HRMS (ESI) calcd for C9H14N3 (M+) 164.1182. found 164.1182.

reactant | 2-Amino-oct-7-ynoic acid methyl ester hydrochloride | 14.1 mmol, 2.90 g | Cl.COC(C(CCCCC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-Hex-5-ynyl-1H-imidazol-2-ylamine hydrochloride | 2.45 g, 87% | Cl.C(CCCC#C)C=1N=C(NC1)N | InChI=1S/C9H13N3.ClH/c1-2-3-4-5-6-8-7-11-9(10)12-8;/h1,7H,3-6H2,(H3,10,11,12);1H
